US05091533
A mixture of 6-[3-(3-carbomethoxy-2-methoxyquinolin-7-yl)thiopropyl]-5-hydroxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E26, (794 mg; 1.5 mmoles), methanol (12 mL) and 1N sodium hydroxide (12 mL) was heated in an oil bath at 75° C. and under nitrogen atmosphere for 45 minutes. The mixture was concentrated in vacuo to remove most of the methanol and the residue was neutralized with excess 25% ammonium acetate solution. The mixture was extracted with ethylacetate, dried (MgSO4), filtered and concentrated in vacuo. The residue was chromatographed on silica gel using 65:30:5 hexane:ethylacetate:acetic acid as eluent to yield 165 mgs (21%) of 6-[3-(3-carboxy-2-methoxyquinolin-7-yl)thiopropyl]-5-hydroxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran, E27, m.p. 157°-161° C.

reactant | 6-[3-(3-carbomethoxy-2-methoxyquinolin-7-yl)thiopropyl]-5-hydroxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | C(=O)(OC)C=1C(=NC2=CC(=CC=C2C1)SCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1O)OC | C31H31NO5S
reactant | methanol | 1.5 mmoles, 12 mL, 794 mg | CO | CH4O
reactant | sodium hydroxide | 1N, 12 mL | [OH-].[Na+]
product | 6-[3-(3-carboxy-2-methoxyquinolin-7-yl)thiopropyl]-5-hydroxy-2-(2-phenylethyl)-2,3-dihydrobenzofuran | 165 mgs, 21% | C(=O)(O)C=1C(=NC2=CC(=CC=C2C1)SCCCC1=CC2=C(CC(O2)CCC2=CC=CC=C2)C=C1O)OC | C30H29NO5S
